US09226971B2
Synthesis of (R)-2-amino-N-benzyl-3-methoxypropanamide
(R)—N-benzyl-2-Boc-amino-3-methoxypropanamide (9.8 g, 31.8 mmol) was dissolved in 15 mL of DCM and then 15 mL of TFA was added to the solution. The mixture was stirred at room temperature for two hours. The solvent and TFA was removed by evaporation and a white solid was obtained (12.4, 100%). Upon analysis, it was determined that on average each molecule contained 1.6 TFA. 1H NMR (500 MHz, DMSO) δ 3.30 (s, 3H), 3.69 (m, 2H), 4.05 (m, 1H), 4.35 (m, 2H), 7.25 (m, 3H), 7.35 (m, 2H), 8.23 (br., 2H), 8.95 (m, 1H). LC-MS (m/z) calcd. 208.1. Found 209.1 [M+H]+.

reactant | (R)—N-benzyl-2-Boc-amino-3-methoxypropanamide | 31.8 mmol, 9.8 g | C(C1=CC=CC=C1)NC([C@](COC)(C(=O)OC(C)(C)C)N)=O | C16H24N2O4
reactant | TFA | 15 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | (R)-2-amino-N-benzyl-3-methoxypropanamide | N[C@@H](C(=O)NCC1=CC=CC=C1)COC | C11H16N2O2
